US08748596B2
3-[5-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-pyridin-2-yloxy]-benzonitrile
To a solution of (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone (101.0 g, 343.8 mmol) in dimethylacetamide (1.1 L) was added Cs2CO3 (224 g, 687.6 mmol) and m-cyanophenol (81.9 g, 687.6 mmol). The resulting mixture was warmed to 125° C. and stirred for 20 h. After cooling to room temperature, the resulting mixture was filtered and acetic acid (1.5 L) was added to the filtrate. The resulting mixture was concentrated under reduced pressure to yield a brown residue which was taken up into MTBE (1.5 L) and 1N NaOH(aq) (1.5 L). The resulting layers were thoroughly mixed and then separated. The organic extract was dried over magnesium sulfate, filtered, and concentrated to yield the title compound as a brown oil.

reactant | (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone | 343.8 mmol, 101.0 g | ClC1=CC=C(C=N1)C(=O)N1CCN(CCC1)C1CCC1 | C15H20ClN3O
reactant | Cs2CO3 | 687.6 mmol, 224 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | m-cyanophenol | 687.6 mmol, 81.9 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | NaOH | 1N, 1.5 L | [OH-].[Na+]
solvent | dimethylacetamide | 1.1 L | CC(=O)N(C)C | C4H9NO
solvent | MTBE | 1.5 L | CC(C)(C)OC | C5H12O
product | 3-[5-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-pyridin-2-yloxy]-benzonitrile | C1(CCC1)N1CCN(CCC1)C(=O)C=1C=CC(=NC1)OC=1C=C(C#N)C=CC1 | C22H24N4O2
